** sch_path: /home/omare/Documents/UWASIC/Matrix-Vector-Analog/analog/schematics/test_bitcell.sch
**.subckt test_bitcell
x1 net4 net1 net3 net2 BitCell_2T1C
V1 net1 GND PWL(0n 0 10n 0 10.1n 1.8 110n 1.8 110.1n 0 200n 0)
V3 net3 GND PWL(0n 0 10n 0 10.1n 1.8 30n 1.8 30.1n 0 200n 0)
C1 net4 GND 50f m=1
V2 net2 GND PWL(0n 0 40n 0 40.1n 1.8 60n 1.8 60.1n 0 80n 0 80.1n 1.8 100n 1.8 100.1n 0 200n 0)
V4 net5 GND PWL(0n 0 35n 0 35.1n 1.8 39n 1.8 39.1n 0 75n 0 75.1n 1.8 79n 1.8 79.1n 0 200n 0)
XM1 net4 net5 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
**** begin user architecture code


.param V_WWL=1.8
.param V_RWL=1.8
.param V_WBL=1.8
.param V_LSB='1.8/4'

.save v(net4) v(net1) v(net2) v(net3) v(x1.net1) v(pre)

.tran 0.01n 200n

** Write: target = 90% of actual peak (~1.0V), so 0.9
.meas tran t_write1 TRIG V(net1) VAL=0.9 RISE=1 TARG V(x1.net1) VAL=0.9 RISE=1

** Read: target = 50% of actual RBL swing (~0.43V), so 0.2
.meas tran t_read1 TRIG V(net2) VAL=0.9 RISE=1 TARG V(net4) VAL=0.2 RISE=1

** Retention: check when storage drops from peak by V_LSB/2
** Peak is ~1.05V now, so target = 1.05 - 0.056 = 0.994
.meas tran t_retain TRIG AT=31n TARG V(x1.net1) VAL=0.994 FALL=1

** Also add a measurement to capture the actual peak
.meas tran V_store_peak MAX V(x1.net1) FROM=25n TO=35n

.control
save all
run
write test_bitcell.raw
.endc



.param mc_mm_switch=0
.param mc_pr_switch=0
.include /home/omare/.volare/sky130A/libs.tech/ngspice/corners/tt.spice
.include /home/omare/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /home/omare/.volare/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /home/omare/.volare/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends

* expanding   symbol:  Core/BitCell_2T1C.sym # of pins=4
** sym_path: /home/omare/Documents/UWASIC/Matrix-Vector-Analog/analog/schematics/Core/BitCell_2T1C.sym
** sch_path: /home/omare/Documents/UWASIC/Matrix-Vector-Analog/analog/schematics/Core/BitCell_2T1C.sch
.subckt BitCell_2T1C RBL WWL WBL RWL
*.ipin WBL
*.ipin RWL
*.ipin WWL
*.opin RBL
XM1 net1 WWL WBL GND sky130_fd_pr__nfet_01v8 L=0.5 W=0.36 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM2 RBL net1 RWL GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XC1 net1 GND sky130_fd_pr__cap_mim_m3_1 W=10 L=10 MF=1 m=1
.ends

.GLOBAL GND
.end
